//* (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
//*****************************************************************************
//* Version History:
//* 1.00: 04/05/2022 - Initial Model Creation

simulator lang=spectre

subckt EPC2221Q1 (gatein drainin sourcein)
parameters si=1.350e+02 so=1.350e+02 sr=1.350e+02
parameters  aWg=135 A1=(3.492e-02*aWg) k2=2.141e+00 k3=9.000e-02 rpara=3.283e-02
+      rpara_s_factor=1.832e-01 aITc=5.106e-03 arTc=-6.269e-03 k2Tc=5.480e-04
+      x0_0=3.301e+00 x0_0_TC=-9.624e-04 x0_1=1.229e-01 x0_1_TC=3.183e-02
+      dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+      ags1=(6.290e-13*si) ags2=(3.760e-13*si) ags3=1.860e+00 ags4=2.028e-01
+      ags5=(0.000e+00*si) ags6=7.480e+01 ags7=1.055e+01
+      agd1=(4.380e-15*sr) agd2=(1.040e-13*sr) agd3=-9.470e+00 agd4=4.000e+00
+      agd5=(2.790e-15*sr) agd6=-7.463e+01 agd7=1.172e+01 agd8=(0.000e+00*sr)
+      agd9=-3.326e+01 agd10=8.900e-01
+      asd1=(3.690e-13*so) asd2=(3.930e-13*so) asd3=-1.735e+01 asd4=1.810e+00
+      asd5=(4.220e-13*so) asd6=-5.140e+00 asd7=3.328e+01 asd8=(0.000e+00*so)
+      asd9=-8.125e+01 asd10=5.665e+00
+      rg_value=1.0

rd (drainin drain) resistor r=((1-rpara_s_factor)*rpara*(1-arTc*(temp-25)))
rs (sourcein source) resistor r=(rpara_s_factor*rpara*(1-arTc*(temp-25)))
rg (gatein gate) resistor r=(rg_value)

rcsdconv (drain source) resistor r=(1E9/aWg)
rcgsconv (gate source) resistor r=(1E9/aWg)
rcgdconv (gate drain) resistor r=(1E9/aWg)

gswitch drain source bsource i=( (v(drain,source)>0) ? 
+	(A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,source))*v(drain,source))) :
+	(-A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,drain))*v(source,drain))) )

ggsdiode gate source bsource i=( (v(gate,source)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))) )

ggddiode gate drain bsource i=( (v(gate,drain)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS  (gate source) bsource c=(ags1)  
G_CGS1 (gate source) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD  (gate drain) bsource c=(agd1)  
G_CGD1 (gate drain) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)) )

C_SD  (source drain) bsource c=(asd1) 
G_CSD1 (source drain) bsource q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+ 
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)) )

ends EPC2221Q1

*****************************************************************************
subckt EPC2221Q2 (gatein drainin sourcein)
parameters si=1.350e+02 so=1.350e+02 sr=1.350e+02
parameters  aWg=135 A1=(3.492e-02*aWg) k2=2.141e+00 k3=9.000e-02 rpara=3.283e-02
+      rpara_s_factor=1.832e-01 aITc=5.106e-03 arTc=-6.269e-03 k2Tc=5.480e-04
+      x0_0=3.301e+00 x0_0_TC=-9.624e-04 x0_1=1.229e-01 x0_1_TC=3.183e-02
+      dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+      ags1=(6.290e-13*si) ags2=(3.760e-13*si) ags3=1.860e+00 ags4=2.028e-01
+      ags5=(0.000e+00*si) ags6=7.480e+01 ags7=1.055e+01
+      agd1=(4.380e-15*sr) agd2=(1.040e-13*sr) agd3=-9.470e+00 agd4=4.000e+00
+      agd5=(2.790e-15*sr) agd6=-7.463e+01 agd7=1.172e+01 agd8=(0.000e+00*sr)
+      agd9=-3.326e+01 agd10=8.900e-01
+      asd1=(3.690e-13*so) asd2=(3.930e-13*so) asd3=-1.735e+01 asd4=1.810e+00
+      asd5=(4.220e-13*so) asd6=-5.140e+00 asd7=3.328e+01 asd8=(0.000e+00*so)
+      asd9=-8.125e+01 asd10=5.665e+00
+      rg_value=1.0

rd (drainin drain) resistor r=((1-rpara_s_factor)*rpara*(1-arTc*(temp-25)))
rs (sourcein source) resistor r=(rpara_s_factor*rpara*(1-arTc*(temp-25)))
rg (gatein gate) resistor r=(rg_value)

rcsdconv (drain source) resistor r=(1E9/aWg)
rcgsconv (gate source) resistor r=(1E9/aWg)
rcgdconv (gate drain) resistor r=(1E9/aWg)

gswitch drain source bsource i=( (v(drain,source)>0) ? 
+	(A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,source))*v(drain,source))) :
+	(-A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(temp-25))+x0_1*(1-x0_1_TC*(temp-25))*v(gate,drain))*v(source,drain))) )

ggsdiode gate source bsource i=( (v(gate,source)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))) )

ggddiode gate drain bsource i=( (v(gate,drain)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS  (gate source) bsource c=(ags1)  
G_CGS1 (gate source) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD  (gate drain) bsource c=(agd1)  
G_CGD1 (gate drain) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)) )

C_SD  (source drain) bsource c=(asd1) 
G_CSD1 (source drain) bsource q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+ 
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)) )

ends EPC2221Q2
